US04192884
Step 1: Synthesis of 4,5-dichloro-2-thiophenecarboxaldehyde.
To a mechanically stirred solution of 31.8 grams (0.217 mole) 5-chloro-2thiophenecarboxaldehyde in 150 ml of methylene chloride, 65 grams (0.487 mole) of anhydrous aluminum chloride was added in small portions. The mixture exothermed and turned purple. To this mixture 20.6 grams (0.29 mole) of chlorine in 250 ml of carbon tetrachloride was added dropwise. The reaction mass was refluxed for about 15 hours, and an additional 15 grams (0.21 mole) of chlorine in 200 ml of carbon tetrachloride was added. The mixture was refluxed for an additional 7 hours. The reaction was quenched by pouring over one liter of ice water. The aqueous layer was extracted with chloroform. The chloroform solution was washed with water and sodium bicarbonate. After drying with anhydrous sodium sulfate and concentration under vacuum, a yellow-brown oil was obtained. The crude 4,5-dichloro-2-thiophenecarboxaldehyde crystallized on standing and was recrystallized from hexane.

reactant | 5-chloro-2thiophenecarboxaldehyde | 0.217 mole, 31.8 grams | ClC1=CC=C(S1)C=O | C5H3ClOS
reactant | aluminum chloride | 0.487 mole, 65 grams | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | chlorine | 0.29 mole, 20.6 grams | ClCl | Cl2
reactant | chlorine | 0.21 mole, 15 grams | ClCl | Cl2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | carbon tetrachloride | 250 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4,5-dichloro-2-thiophenecarboxaldehyde | ClC=1C=C(SC1Cl)C=O | C5H2Cl2OS
